US09428512B2
Intermediate 13: 5-((Benzyloxy)methyl)-2-butyl-7-(5-chloropent-1-yn-1-yl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine
To a degassed suspension of 5-((benzyloxy)methyl)-2-butyl-7-iodo-5H-pyrrolo[3,2-d]pyrimidin-4-amine (2.768 g, 6.34 mmol), copper (I) iodide (0.242 g, 1.269 mmol), and bis(triphenylphosphine)palladium(II)dichloride (0.445 g, 0.634 mmol) in anhydrous N,N-dimethylformamide (40 mL) was added a solution of 5-chloropent-1-yne (0.781 g, 7.61 mmol) and triethylamine (1.231 mL, 8.88 mmol) in anhydrous N,N-dimethylformamide (20 mL) dropwise over 2 minutes. The reaction was stirred at ambient temperature for 17 hours. The reaction was concentrated in vacuo and the resultant brown oil partitioned between water (500 mL) and ethyl acetate (500 mL). The organic was separated and the aqueous back extracted with ethyl acetate (250 mL). The combined organics were washed with brine (400 mL), dried (MgSO4), filtered and concentrated in vacuo. The sample was dissolved in dichloromethane and purified by chromatography on silica (Si) (2×100 g) using a 0-100% ethyl acetate-cyclohexane gradient over 60 minutes. The appropriate fractions were combined and evaporated in vacuo to give a red oil. The sample was dissolved in dichloromethane and purified by chromatography on silica using a 0-100% ethyl acetate-cyclohexane gradient over 80 minutes. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a yellow solid. (1.13 g).

reactant | 5-((benzyloxy)methyl)-2-butyl-7-iodo-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 6.34 mmol, 2.768 g | C(C1=CC=CC=C1)OCN1C=C(C=2N=C(N=C(C21)N)CCCC)I | C18H21IN4O
reactant | 5-chloropent-1-yne | 7.61 mmol, 0.781 g | ClCCCC#C | C5H7Cl
reactant | triethylamine | 8.88 mmol, 1.231 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper (I) iodide | 1.269 mmol, 0.242 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.634 mmol, 0.445 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 5-((Benzyloxy)methyl)-2-butyl-7-(5-chloropent-1-yn-1-yl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | C(C1=CC=CC=C1)OCN1C=C(C=2N=C(N=C(C21)N)CCCC)C#CCCCCl | C23H27ClN4O
